US08134001B2
In a manner similar to the methods described in Example 128a and 112b, 5-iodo-2-hydroxy-benzaldehyde was reacted with methanesulfonic acid cyclohexyl ester and potassium carbonate to give 5-Iodo-2-(cyclohexyloxy)-benzaldehyde, which was subsequently reacted with LHMDS, acetyl chloride, triethylamine and chloro-trimethyl-silane to give the title compound and directly used for the next step.

reactant | 5-iodo-2-hydroxy-benzaldehyde | IC=1C=CC(=C(C=O)C1)O | C7H5IO2
reactant | methanesulfonic acid cyclohexyl ester | C1(CCCCC1)OS(=O)(=O)C | C7H14O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-Iodo-2-(cyclohexyloxy)-benzaldehyde | IC=1C=CC(=C(C=O)C1)OC1CCCCC1 | C13H15IO2
